US07960365B2
1-Methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonic acid [1-(3,5′-difluoro-2′-methoxy-biphenyl-4-yl)-ethyl]-amide
1-(3,5′-Difluoro-2′-methoxy-biphenyl-4-yl)-ethylamine was prepared in a similar manner to 1-(2-allyl-5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethylamine (Example 34) using 4′-bromo-2′-fluoroacetophenone to give 1-(4-bromo-2-fluoro-phenyl)-ethylamine. To a solution of 1-(3,5′-difluoro-2′-methoxy-biphenyl-4-yl)-ethylamine (20.0 mg, 0.08 mmol) in dichloromethane (1 ml) was added triethylamine (8.1 mg, 0.08 mmol) and 1-methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonyl chloride (14.2 mg, 0.06 mmol). The solution was stirred overnight then the solvent evaporated and the residue purified by flash chromatography over silica gel eluting with dichloromethane. Evaporation of solvent under reduced pressure gave the title compound (20 mg). 1H NMR (400 MHz, CDCl3): δ 7.51 (s, 1H), 7.21-7.16 (m, 2H), 7.14-7.09 (m, 1H), 7.05-6.95 (m, 2H), 6.93-6.88 (m, 1H), 5.11 (d, 1H), 4.76 (dq, 1H), 3.81 (s, 3H), 3.73 (s, 3H), 1.55 (d, 3H) ppm; MS (ESI) m/z: 498.3 [M+Na]+.

reactant | 1-(3,5′-difluoro-2′-methoxy-biphenyl-4-yl)-ethylamine | 0.08 mmol, 20.0 mg | FC=1C=C(C=CC1C(C)N)C1=C(C=CC(=C1)F)OC | C15H15F2NO
reactant | triethylamine | 0.08 mmol, 8.1 mg | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonyl chloride | 0.06 mmol, 14.2 mg | CN1N=C(C(=C1)S(=O)(=O)Cl)C(F)(F)F | C5H4ClF3N2O2S
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonic acid [1-(3,5′-difluoro-2′-methoxy-biphenyl-4-yl)-ethyl]-amide | 20 mg | FC=1C=C(C=CC1C(C)NS(=O)(=O)C=1C(=NN(C1)C)C(F)(F)F)C1=C(C=CC(=C1)F)OC | C20H18F5N3O3S
